US07514555B2
Step A: Preparation of 4-(3-(2,6-Dimethylbenzyloxy)-phenyl)-4(R)-hydroxybutanoic acid
To a stirred solution of 4-(3-(2,6-Dimethylbenzyloxy)phenyl)-4-oxobutyric acid (WO 02/100341, 3 g, 9.6 mmol) in methanol (64 ml) was added cerium chloride (3.55 g, 14.4 mmol). The reaction mixture was stirred for 10 minutes at room temperature, cooled to 0° C., and NaBH4 (0.400 g, 10.6 mmol) was added. The stirring continued at 0° C. for 4 hours, and the reaction was quenched with few drops of 50% aqueous acetic acid. Water (60 ml) and chloroform (60 ml) were added, and the reaction mixture was extracted with chloroform (3×25 ml). The organic layer was washed with water (2×) and brine (2×). The combined organic layer was dried over Na2SO4, filtered, concentrated and purified by flash column chromatography using chloroform:methanol (95:5 spiked with acetic acid) to give the title compound as white solid.

reactant | 4-(3-(2,6-Dimethylbenzyloxy)phenyl)-4-oxobutyric acid | 9.6 mmol, 3 g | CC1=C(COC=2C=C(C=CC2)C(CCC(=O)O)=O)C(=CC=C1)C | C19H20O4
reactant | cerium chloride | 14.4 mmol, 3.55 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | NaBH4 | 10.6 mmol, 0.400 g | [BH4-].[Na+]
solvent | methanol | 64 ml | CO | CH4O
product | 4-(3-(2,6-Dimethylbenzyloxy)-phenyl)-4(R)-hydroxybutanoic acid | CC1=C(COC=2C=C(C=CC2)[C@@H](CCC(=O)O)O)C(=CC=C1)C | C19H22O4
